US08865726B2
A solution of (S)-2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)b enzaldehyde (0.370 g, 0.878 mmol), potassium acetate (0.0948 g, 0.966 mmol) and hydrazinecarboxamide hydrochloride (0.108 g, 0.966 mmol) in 3:1 EtOH/MeOH (6 mL) was stirred at ambient temperature overnight. The solvents were evaporated under vacuum. The residue was purified by preparative TLC (10% MeOH in DCM) to give (S,E)-2-(2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzylidene)hydrazinecarboxamide (0.164 g, 39% yield) as a yellow powder.

reactant | (S)-2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)b enzaldehyde | 0.878 mmol, 0.370 g | FC1=C(C=O)C=CC(=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C21H13F2N5O3
reactant | potassium acetate | 0.966 mmol, 0.0948 g | C(C)(=O)[O-].[K+]
reactant | hydrazinecarboxamide hydrochloride | 0.966 mmol, 0.108 g | Cl.N(N)C(=O)N
solvent | EtOH MeOH | 6 mL | CCO.CO
product | (S,E)-2-(2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzylidene)hydrazinecarboxamide | 0.164 g, 39% yield | FC1=C(\C=N\NC(=O)N)C=CC(=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C22H16F2N8O3
